US06211234B1
A mixture of ethyl (2,4-dibenzyloxyphenoxy)acetate (2 g), concentrated ammonia (25 mL) and methanol (50 mL) is stirred at room temperature for 18 hours. The reaction mixture is diluted with water (50 mL) then evaporated to low bulk and filtered. The solid is washed with water and dried to give 2-(2,4-dibenzyloxyphenoxy)acetamide (1.1 g) as a white powder, m.p. 120° C. [Elemental analysis:- C,73.1; H,5.78; N,3.79%. Calculated:- C,72.7; H,5.83; N,3.85%].

reactant | ethyl (2,4-dibenzyloxyphenoxy)acetate | 2 g | C(C1=CC=CC=C1)OC1=C(OCC(=O)OCC)C=CC(=C1)OCC1=CC=CC=C1 | C24H24O5
reactant | ammonia | 25 mL | N | H3N
reactant | methanol | 50 mL | CO | CH4O
solvent | water | 50 mL | O | H2O
product | 2-(2,4-dibenzyloxyphenoxy)acetamide | 1.1 g | C(C1=CC=CC=C1)OC1=C(OCC(=O)N)C=CC(=C1)OCC1=CC=CC=C1 | C22H21NO4
